Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Mr. ___ is a ___ yo male with a
history of metastatic anal cancer and HIV who was recently
discharged on ___ue to malignant
bowel obstruction with course significantly complicated by bowel
perforation on ___ s/p exploratory laparotomy, repair of
enterotomy, small bowel resection, and end ileostomy, who
presents from clinic with lethargy and hypercalcemia. presented
to clinic today ___, where he was noted to be lethargic,
tachycardic and to have abnormal labs. Calcium was 12.8 and 
given
his mental status, he was transferred to the ED. Prior to
transfer to the ED, he received 1L NS and his mental status was
improved. Note, the purpose of his visit was the evaluate if he
could receive urgent systemic therapy. Per his mother, he has 
not
been eating well and has been very weak/not able to participate
in physical therapy over the last ___ days. 

Of note, previous admission was also notable for post-op course
that was complicated by difficult pain management (s/p PCA with
improvement), ___, fevers and leukocytosis, which were thought 
to
be due to malignancy. He also had baseline HRs 100s-120s with
occasional spikes to 140s, thought to be from deconditioning.
Multiple infectious work ups and LENIs were negative during that
hospitalization. 

 
Past Medical History:
1. HIV diagnosed in ___ provider at ___,  Dr.
___
2. Anal condylomata treated with cryotherapy about ___ in
___.
3. Syphilis treated with IM penicillin in ___.
4. Gonorrhea treated in ___.
5. Hypertension treated with lisinopril.
6. Cellulitis of both legs in ___.

 
Social History:
___
Family History:
- maternal cousin breast cancer at ___
- mother ___ breast cancer
- maternal grandmother with pancreatic cancer
- maternal aunt's son ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
Vitals:  98.0 98 / 56 105 18 98 1.5L 
GENERAL: Chronically ill appearing 
HEENT:  PERRL. EOMI. OP notable for very dry oropharynx 
NECK: No JVD
LUNGS: No increased WOB. Upper airway sounds throughout. No
wheezes/rales
HEART:  Tachycardic, regular. no  murmurs. s1/s2
ABD:  + BS. Soft, mild discomfort to palpation of lower abdomen.
Suprapubic region to the right is slightly firmer than rest of
abdomen. Ileostomy and colostomy in place with minimal stool in
bags. No rebound or guarding
EXT: Warm, well-perfused, no edema
SKIN: 
NEURO:  Alert, oriented to self, ___, and month/year
(says ___. CN ___ grossly intact. Symmetric ___ hand
grip strength. 4+/5 left hip flexor strength. ___ right hip
flexor strength given pain (chronic per patient). ___ bilateral
plantar flexion strength. Light touch sensation intact. 
ACCESS:  R port-a-cath, Right dorsal hand PIV

DISCHARGE:
97.5 105 / 70 120 22  92 RA 
GENERAL: appears comfortable, sleeping, NAD 
HEENT:  PERRL, pink, dry mucus membranes 
LUNGS: non-labored breathing, diffuse coarse breath sounds   
HEART:  rrr, no murmurs
ABD:  soft, non-distended, discomfort with palpation diffusely,
palpable superficial mass in between 2 ostomy sites 
EXT: Warm to touch, nonpitting edema in b/l feet, TTP  
SKIN: R gluteal/sacral wound not examined today but per wound
care, increasing dehiscence at surgical wound with palpable bone 

NEURO: sensation grossly intact, face symmetric, UE with
purposeful movements, lower extremities with limited movements 
 
Pertinent Results:
ADMISSION LABS
___ 03:10PM    WBC-13.4*  LYMPH-10* ABS LYMPH-1340 CD3-90 
ABS CD3-1208 CD4-27 ABS CD4-361 CD8-58 ABS CD8-775* 
CD4/CD8-0.47*
___ 03:10PM   NEUTS-81.0* LYMPHS-9.8* MONOS-7.5 EOS-0.9* 
BASOS-0.1 IM ___ AbsNeut-10.87* AbsLymp-1.31 AbsMono-1.00* 
AbsEos-0.12 AbsBaso-0.02
___ 03:10PM   WBC-13.4* RBC-3.38* HGB-9.0* HCT-28.7* MCV-85 
MCH-26.6 MCHC-31.4* RDW-15.2 RDWSD-47.2*
___ 03:10PM   HIV1 VL-NOT DETECT
___ 03:10PM   ALBUMIN-2.5* CALCIUM-12.8* PHOSPHATE-2.8 
MAGNESIUM-1.9
___ 03:10PM   ALT(SGPT)-64* AST(SGOT)-49* ALK PHOS-369* TOT 
BILI-0.7
___ 03:10PM   UREA N-8 CREAT-0.4* SODIUM-132* POTASSIUM-4.5 
CHLORIDE-93* TOTAL CO2-27 ANION GAP-12
___ 06:30PM URINE  RBC-9* WBC->182* BACTERIA-FEW* 
YEAST-FEW* EPI-<1 TRANS EPI-<1
___ 06:30PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-300* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG*
___ 06:30PM   NEUTS-84.3* LYMPHS-7.2* MONOS-7.3 EOS-0.6* 
BASOS-0.1 IM ___ AbsNeut-10.81* AbsLymp-0.93* AbsMono-0.94* 
AbsEos-0.08 AbsBaso-0.01
___ 06:30PM   WBC-12.8* RBC-3.02* HGB-8.0* HCT-25.7* MCV-85 
MCH-26.5 MCHC-31.1* RDW-15.3 RDWSD-47.5*
___ 06:30PM   CALCIUM-12.1* PHOSPHATE-2.6* MAGNESIUM-1.8
___ 06:30PM   GLUCOSE-91 UREA N-9 CREAT-0.4* SODIUM-130* 
POTASSIUM-4.7 CHLORIDE-95* TOTAL CO2-23 ANION GAP-12
___ 06:51PM   LACTATE-1.4

DISCHARGE LABS: None on day of discharge

PERTINENT IMAGING 
___ CT CHEST W/CONTRAST
-Extensive pulmonary and pleural metastasis is new or 
significantly worse since ___.  Right partially 
loculated pleural effusion is larger. Small left pleural 
effusion is new.
-New lytic lesions and mild loss of a in T8 and L4.
- Please see separately dictated CT of the abdomen and pelvis 
for complete description of subdiaphragmatic findings.

___ CT ABD/PELVIS 
1. Interval worsening local and distant metastatic disease as 
detailed above.
2. New bilateral moderate hydroureteronephrosis with bilateral 
renal
enlargement secondary to obstructive nephropathy related to the 
infiltrative pelvic mass lesion, involving the urinary bladder 
wall.
3. No obvious acute intra-abdominal infectious process.  
Although the hepatic hypoenhancing lesion is likely representing 
a centrally necrotic metastatic deposit to the liver given the 
extent and appearance of metastatic disease elsewhere, if there 
is clinical concern that this may represent an abscess, further 
characterization with MRI may be of benefit.
 
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of HIV, metastatic anal 
cancer s/p ___ and radiation therapy complicated by 
malignant bowel obstructions requiring ex-lap and 
ileostomy/colostomy, who was admitted to ___ on ___ with 
altered mental status and weakness in the setting of 
hypercalcemia. Though mental status returned to baseline with 
correction of calcium, imaging showed evidence of progressive 
tumor involvement and extensive perineal wounds concerning for 
osteomyelitis. On ___ the patient and his family opted to 
transition management plan towards Hospice Care. 

#Goals of Care: 
#Metastatic Anal Cancer: 
Family meeting occurred on ___ with patient's HCP, primary 
oncologist, and ___ medical team. The medical team 
expressed their concerns about the patient's worsening mental 
status, poor nutrition, and overall decline. The family was made 
aware that chemotherapy was only an option if the patient's 
functional status improved to the point where he no longer 
required hospital-level care. If he was unable to receive 
chemotherapy given underlying health, the medical team 
recommended that we transition our goals of care to focus on his 
comfort. The family expressed understanding of the situation and 
chose to make code status DNR/DNI. As the patient's mental 
status cleared he became better able to participate in his care. 
On ___ he began to express to the team his hesitation to 
proceed with plans for chemotherapy and ultimately on ___ upon 
further discussion with his primary oncologist expressed the 
desire to transition towards hospice care with the goals of 
focusing on comfort, spending time with loved ones and being in 
a comfortable and safe place, possible at home. On ___ 
palliative care was consulted for further assistance with 
transition towards hospice. They provided the patient and family 
with support and recommended a plan for pain management as noted 
below. 

#Acute toxic-metabolic encephalopathy
Likely multifactorial in the setting of malignancy, 
malnutrition, infection, and metabolic derangements such as 
hypercalcemia (corrected calcium of 14 on arrival). On 
admission, the patient was started on broad spectrum antibiotics 
to treat for possible underlying infection. He was also given IV 
multivitamin, thiamine, and folate. Hypercalcemia workup was 
suggestive of hypercalcemia secondary to bony metastases and 
immobility, with suppressed PTH and normal PTHrp. The patient 
received pamidronate, calcitonin and IVF with improvement in 
calcium levels. Return of mental status appeared to correlate, 
though Calcium levels began to uptrend and remained borderline 
elevated on discharge. 

#Fever of Unknown Origin
Patient continued to be intermittently febrile throughout 
hospitalization. He was started on broad spectrum antibiotics 
vancomycin/ceftazidime/flagyl though with continued fevers. 
Blood and urine cultures remained negative. CT torso on ___ 
showed evidence of worsening tumor burden compared to imaging in 
___ with appreciable involvement of lungs, liver, bladder, 
retroperitoneum and general pelvis. It was unclear if fevers 
were related to tumor burden or an underlying infectious source, 
though many of the suspected sources including a right pleural 
effusion, liver mass and perineal wound with air tracking into 
sacrum, would require more invasive testing. ID was consulted 
and helped guide work up for treatable sources through 
non-invasive testing (serologies sent) in an effort to minimize 
discomfort for the family. RPR, serum crypt Ag, toxoplasma 
serology, CMV serology, HCV serology were all negative (CMV 
consistent with prior infection, no detected viral load). Given 
unclear etiology of fevers and negative culture data, 
antibiotics were discontinued ___ without a change in clinical 
status or fever curve. Based on assessment of perineal wounds 
and CT, the patient most likely has osteomyelitis involving the 
coccyx/sacrum. Further work up was not pursued as this did not 
align with patient's goals of care. 

#Perineal/Right gluteal wound 
A large portion of hospitalization was focused on pain 
management and wound care. Despite daily wound management, 
likely in the setting of severe malnutrition and immobilization, 
the perineal surgical wound deteriorated to the extent of 
palpable bone through the distal portion of the wound. There 
remains high suspicion for osteomyelitis at the wound bed, 
though given transition of care to hospice, further work up was 
not pursued. 

#Normocytic anemia
Iron studies consistent with inflammatory block. The patient 
received blood transfusions on ___, and ___ for 
Hgb<7.0. 

#HIV: continued on home meds. Meds discontinued prior to 
discharge after decision made for hospice. 

TRANSITIONAL ISSUES 
===================
**PATIENT DOES NOT WANT FAMILY TO KNOW ABOUT HIV STATUS**

[]Pain regimen as follows, to be *liberally* uptitrated as 
needed:
-Oxycontin 100mg TID 
-Oxycodone 15mg q3h PRN 
-Hydromorphone PCA 0.24mg dose, max 2mg an hour -- *** consider 
adding basal rate ***
-Hydromorphine 4mg IV q4h PRN breakthrough pain
-Cyclobenzaprine 5mg TID PRN
-Ibuprofen 600mg BID 
[]Anxiety:
-Quetiapine 12.5mg QHS, 12.5mg q6h PRN anxiety
-Lorazepam PO 0.5mg q6h PRN 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
2. Docusate Sodium 100 mg PO BID 
3. Dolutegravir 50 mg PO DAILY 
4. Emtricitabine-Tenofovir alafen (Descovy) 1 TAB PO DAILY 
5. LORazepam 0.5 mg PO Q12H:PRN Nausea 
6. Tamsulosin 0.4 mg PO QHS 
7. Polyethylene Glycol 17 g PO BID 
8. Atovaquone Suspension 1500 mg PO DAILY 
9. Cyclobenzaprine 10 mg PO TID:PRN muscle spasm 
10. OxyCODONE (Immediate Release) 15 mg PO Q3H:PRN Pain - 
Moderate 
11. OxyCODONE SR (OxyconTIN) 120 mg PO Q12H 
12. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever 
13. Gabapentin 300 mg PO TID 
14. Hydrocerin 1 Appl TP QID:PRN dry skin 
15. HYDROmorphone (Dilaudid) 3 mg IV BID:PRN Dressing changes, 
position changes 
16. Lidocaine 5% Patch 1 PTCH TD QAM 
17. Mirtazapine 15 mg PO QHS 
18. Multivitamins W/minerals 1 TAB PO DAILY 
19. Omeprazole 20 mg PO DAILY 
20. Sarna Lotion 1 Appl TP QID:PRN itching 
21. Vitamin D 1000 UNIT PO DAILY 
22. Ondansetron 4 mg PO Q8H:PRN Nausea 
23. Enoxaparin Sodium 40 mg SC DAILY 
24. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY:PRN Dressing 
changes 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Miconazole 2% Cream 1 Appl TP BID Duration: 14 Days  
3.  Polyethylene Glycol 17 g PO BID  
4.  QUEtiapine Fumarate 12.5 mg PO Q6H:PRN anxiety  
5.  QUEtiapine Fumarate 12.5 mg PO QHS  
6.  Cyclobenzaprine 5 mg PO TID:PRN muscle spasm  
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth TID PRN Disp #*21 
Tablet Refills:*0 
7.  HYDROmorphone (Dilaudid) 4 mg IV Q4H:PRN BREAKTHROUGH PAIN 
RX *hydromorphone 4 mg/mL 4 mg IV q4h PRN Disp #*30 Syringe 
Refills:*0 
8.  HYDROmorphone (Dilaudid) 0.24 mg IVPCA Lockout Interval: 6 
minutes  Basal Rate: 0 mg(s)/hour 1-hr Max Limit: 2 mg(s) 
Start: Today - ___ @ 1400  
9.  Ibuprofen 600 mg PO BID  
10.  LORazepam 0.5 mg PO Q6H:PRN Nausea/Anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth q6h PRN Disp #*28 Tablet 
Refills:*0 
11.  MetronidAZOLE Topical 1 % Gel 1 Appl TP BID  
12.  OxyCODONE SR (OxyconTIN) 100 mg PO Q8H 
RX *oxycodone 20 mg 5 tablet(s) by mouth every eight (8) hours 
Disp #*75 Tablet Refills:*0 
13.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
14.  Hydrocerin 1 Appl TP QID:PRN dry skin  
15.  Ondansetron 4 mg PO Q8H:PRN Nausea  
16.  OxyCODONE (Immediate Release) 15 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth q3h PRN Disp #*21 
Tablet Refills:*0 
17.  Sarna Lotion 1 Appl TP QID:PRN itching  
18.  Tamsulosin 0.4 mg PO QHS  
19.IV dilaudid PCA 
HYDROmorphone (Dilaudid) 0.12 mg IVPCA Lockout Interval: 6 
minutes Basal Rate: 0 mg(s)/hour 1-hr Max Limit: 0.48 mg(s) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Metastatic Anal Cancer 
Anemia
Leukocytosis
Toxic-metabolic encephalopathy
Hypercalcemia 
Sacral wound

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the ___ on 
___ with altered mental status and weakness. Your calcium 
levels were found to be elevated, and as they were corrected, 
your mental status improved to baseline. Your pain regimen was 
altered to keep you comfortable. At this time you have chosen to 
focus your goals of care on comfort and spending time with your 
loved ones. 

It was a pleasure taking care of you, 
Your ___ Care Team 

 
Followup Instructions:
___